US04474810
4-[[2-[4-[(4-Chloro-1-naphthyl)oxy]phenyl]-1-ethoxy-2-oxoethyl]amino]benzoic acid
A mixture of 4.2 g. of 2,2-dihydroxy-4-(4-chloro-1-naphthyloxy)-α-oxo-benzeneacetaldehyde hemihydrate, 1.76 g. of p-aminobenzoic acid and 30 ml. of absolute ethanal was refluxed overnight under argon. The solid was collected, boiled in ethanol, cooled and filtered, giving the desired product as a pale yellow solid, m.p. 155°-165° C.

reactant | 2,2-dihydroxy-4-(4-chloro-1-naphthyloxy)-α-oxo-benzeneacetaldehyde hemihydrate | O.OC1(C(C=CC(=C1)OC1=CC=C(C2=CC=CC=C12)Cl)C(C=O)=O)O.OC1(C(C=CC(=C1)OC1=CC=C(C2=CC=CC=C12)Cl)C(C=O)=O)O
reactant | p-aminobenzoic acid | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | ethanal | C(C)=O | C2H4O
product | 4-[[2-[4-[(4-Chloro-1-naphthyl)oxy]phenyl]-1-ethoxy-2-oxoethyl]amino]benzoic acid | ClC1=CC=C(C2=CC=CC=C12)OC1=CC=C(C=C1)C(C(OCC)NC1=CC=C(C(=O)O)C=C1)=O | C27H22ClNO5
